US04556711
5-[4-(3-(2-Aminoethyl)ureido)phenyl]-2(1H)-pyrazinone
5-[4-(3-(2-Acetamidoethyl)ureido)phenyl]-2(1H)-pyrazinone was hydrolysed by heating with hydrochloric acid to form the title compound, as the hydrochloride; δ(D2O/DCl) 3.15, 3.45 (2t, 4H, --CH2CH2 --), 7.81, 8.08 (2d, pyrazinone H's).

reactant | 5-[4-(3-(2-Acetamidoethyl)ureido)phenyl]-2(1H)-pyrazinone | C(C)(=O)NCCNC(NC1=CC=C(C=C1)C=1N=CC(NC1)=O)=O | C15H17N5O3
reactant | hydrochloric acid | Cl | ClH
product | 5-[4-(3-(2-Aminoethyl)ureido)phenyl]-2(1H)-pyrazinone | NCCNC(NC1=CC=C(C=C1)C=1N=CC(NC1)=O)=O | C13H15N5O2
